US06956052B2
To a stirring solution of the Cs+ salt of 1-{4-[(acetylamino)sulfonyl]phenyl}-8-[(2-chlorobenzoyl)amino]-4,5-dihydro-1H-benzo[g]indazole-3-carboxamide (637 mg, 0.92 mmol) in DMF (8 mL) was added a solution of allyl bromide (111 mg, 0.92 mmol). The solution was stirred at room temperature for over the weekend and concentrated. To the mixture was added MeOH—H2O (2:1). A precipitate was formed. It was filtered to give a yellow solid of 1-(4-[acetyl(allyl)amino]sulfonyl}phenyl)-8-[(2-chlorobenzoyl)amino]-4,5-dihydro-1H-benzo[g]indazole-3-carboxamide (360 mg, 65%.)

reactant | 1-{4-[(acetylamino)sulfonyl]phenyl}-8-[(2-chlorobenzoyl)amino]-4,5-dihydro-1H-benzo[g]indazole-3-carboxamide | 0.92 mmol, 637 mg | C(C)(=O)NS(=O)(=O)C1=CC=C(C=C1)N1N=C(C=2CCC3=C(C12)C=C(C=C3)NC(C3=C(C=CC=C3)Cl)=O)C(=O)N | C27H22ClN5O5S
reactant | allyl bromide | 0.92 mmol, 111 mg | C(C=C)Br | C3H5Br
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 8-[(2-chlorobenzoyl)amino]-4,5-dihydro-1H-benzo[g]indazole-3-carboxamide | 360 mg, 65% | ClC1=C(C(=O)NC2=CC3=C(CCC=4C(=NNC34)C(=O)N)C=C2)C=CC=C1 | C19H15ClN4O2
